US09085555B2
C. Tert-butyl 2-(3-cyano-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate
A mixture of tert-butyl 2-(3-iodo-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate (1.00 g, 2.55 mmol), Zn(CN)2 (329 mg, 2.55 mmol), Pd(dppf)Cl2 (208 mg, 0.25 mmol), Pd2(dba)3 (233 mg, 0.25 mmol), water (2.7 mL) and DMF (20 mL) was subjected to microwave irradiation at 120° C. for 30 min under argon. The reaction mixture was filtered through a pad of Celite and the filtrate was diluted with water and EtOAc. The phases were separated and the aqueous layer was extracted with EtOAc. The combined organic extracts were washed with brine, then dried (Phase separator) and concentrated under vacuum. The residual oil was purified by flash chromatography on silica gel (EtOAc/c-hexane 1:2 then 1:1). MS (LC/MS): 273.0 [M+H]+; tR (HPLC conditions k): 3.04 min.

reactant | tert-butyl 2-(3-iodo-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | 2.55 mmol, 1.00 g | IC1=NN(C2=CN=C(C=C21)C)CC(=O)OC(C)(C)C | C13H16IN3O2
reactant | water | 2.7 mL | O | H2O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 2.55 mmol, 329 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(dppf)Cl2 | 0.25 mmol, 208 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd2(dba)3 | 0.25 mmol, 233 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Tert-butyl 2-(3-cyano-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | C(#N)C1=NN(C2=CN=C(C=C21)C)CC(=O)OC(C)(C)C | C14H16N4O2
